US09062070B2
Step E: tert-butyl (9aS)-3-(3-cyano-4-fluoro-2-methoxyphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
tert-Butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate (2 g, 4.88 mmol) and cyanomethylenetri-n-butylphosphorane (2.122 g, 8.79 mmol) were dissolved in 15 mL benzene. The reaction mixture was degassed and heated to 100° C. for 16 hrs. LC-MS showed product peak at 2.07 (M+1=380). The reaction was cooled and evaporated to dryness. The residue was chromatographed through a 80 g Redi-sep column and eluted with 40% EtOAc/60% hexane mixture to yield cis-trans mixture of the title compound.

reactant | tert-Butyl (3S)-4-[2-(3-cyano-4-fluoro-2-methoxyphenyl)-2-hydroxyethyl]-3-(hydroxymethyl)piperazine-1-carboxylate | 4.88 mmol, 2 g | C(#N)C=1C(=C(C=CC1F)C(CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)O)OC | C20H28FN3O5
reactant | cyanomethylenetri-n-butylphosphorane | 8.79 mmol, 2.122 g | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl (9aS)-3-(3-cyano-4-fluoro-2-methoxyphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | C(#N)C=1C(=C(C=CC1F)C1CN2[C@H](CO1)CN(CC2)C(=O)OC(C)(C)C)OC | C20H26FN3O4
